*****************************************************************
* NXP PH2925U
*
* Polarity N-Channel
* Ratings 25V/3.00E-03OHMS/25A
*
* Date Created Tue Aug  7 07:57:11 2007
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PH2925U DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 2.65888308335967e-10
RLG GATE 1 0.668249640468152
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00148798498336746 TC=0.00582574339626084,4.1503627639529e-06
RBD 9 4 0.00292020991881643 TC=0.00582574339626084,4.1503627639529e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 500000000000
CGS 2 6 9.478e-09
RG 1 2 1.59986503660826

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	9056
+ -5	9033
+ -4	9017
+ -2	8907
+ -1	10050
+ -0.5	8863
+ -0.2	6983
+ -0.1	6335
+ 0	5640.5
+ 0.1	4838
+ 0.2	4100
+ 0.5	2518
+ 1	1729
+ 2	1277
+ 5	898
+ 10	688
+ 20	522
+ 30	443



.MODEL MINT NMOS(Vto=0.96 Kp= 699 Nfs=250000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=28.00 Ibv=2.50E-04 Rs=1E-6 Is=9.00976074625474e-10
+ N=1 M=0.51 VJ=0.6 Fc=0.5 Cjo=1.685e-09 Tt=2.85e-08)

.ENDS
